US20010041803A1
A mixture of 9-Dihydro-13-acetyl Baccatin III (1000 mg, 1.58 mmol) and 1-hydroxy-1,2-benzidoxol-3(1H)-one (IBX) (1700 mg, 79 mmol) in DMSO (50 ml) was stirred at room temperature for 6 h. Water (10 ml) was added to the reaction mixture followed by extraction with dichloromethane (3×150 ml). The combined organic extract was washed with brine (150 ml), dried (MgSO4 anhydrous), and concentrated to dryness. The residue was purified by flash chromatography (silica, hexane/ethyl acetate 1:2) and gave 13-acetyl baccatin III (695 mg, 1.11 mmol, 70%). 1H NMR (250 MHz) (CDCl3) δ 1.11 (s, C-16), 1.2 (s, C17), 1.6 (s, C18), 1.88 (s, 19), 2.18 (s, C10), 2.22 (s, C13), 2.31 (s, C14), 2.24 (m, C6), 2.55 (m, C14), 4.42 (m, C13), 4.94 (d, J=7.93 Hz, C5), 5.63 (d, J=7.02 Hz, C2), 6.18 (m, C7), 6.82 (s, C10), 8.04 (o-Ph), 7.60 (p-Ph), 7.46 (m-Ph); 13C NMR (CDCl3) δ 203.78 (C9), 171.29 (C10), 170.17 (C13), 169.75 (C2), 142.92 (C12), 133.73 (C11), 132.75 (p-Ph), 130.03 (o-Ph), 129.19 (q-Ph), 128.66 (m-Ph), 84.38 (C5), 81.02 (C4), 76.37 (C9), 75.70 (C20), 74.96 (C7), 72.17 (C10), 69.70 (C13), 58.57 (C3), 45.79 (C8), 43.02 (C15), 35.5 (C6), 26.66 (C14), 22.52 (C7), 15.10 (C18), 9.5 (C19

reactant | 9-Dihydro-13-acetyl Baccatin III | 1.58 mmol, 1000 mg | CC1=C2[C@H]([C@@H]([C@@]3([C@H](C[C@@H]4[C@]([C@H]3C[C@](C2(C)C)(C[C@@H]1OC(=O)C)O)(CO4)OC(=O)C)O)C)O)OC(=O)C | C26H38O10
reactant | Water | 10 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 13-acetyl baccatin III | 1.11 mmol, 695 mg, 70% | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)C)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)O)C)OC(=O)C | C33H40O12
